US08124417B2
For preparing the sample self-assembled monolayers (SAMs) of nucleobases (i.e., thiol derivatives of adenine, guanine, cytosine, and uracil), gold substrates were soaked into 10 mM sample ethanolic solutions (HPLC-grade ethanol, Wako Pure Chemical, Osaka, Japan) for 30 min, 45 min, or 1 h. After being taken out of the solution, the gold substrates were rinsed with ethanol to remove excess sample nucleobases physisorbed on the SAMs, and dried in vacuum. The sample adenine/guanine mixed SAMs were prepared from the aqueous 10 mM mixed solutions of adenine and guanine with their differing molar ratios.

reactant | adenine | N1=CN=C2N=CNC2=C1N | C5H5N5
reactant | guanine | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
catalyst | gold | [Au] | Au
solvent | ethanol | C(C)O | C2H6O
product | adenine guanine | N1=CN=C2N=CNC2=C1N.N1C(N)=NC=2N=CNC2C1=O | InChI=1S/C5H5N5O.C5H5N5/c6-5-9-3-2(4(11)10-5)7-1-8-3;6-4-3-5(9-1-7-3)10-2-8-4/h1H,(H4,6,7,8,9,10,11);1-2H,(H3,6,7,8,9,10)
